US04560690
(i) 2-(3-trifluoromethylphenyl)acetonitrile
A mixture of 12.0 g (61.5 mmole) m-trifluoromethylbenzyl chloride, 9.56 g (195 mmole) sodium cyanide and 60 ml dimethylsulfoxide was heated at 50° to 80° C. for four hours and poured into water. The aqueous mixture was extracted with methylene chloride, the extracts dried over sodium sulfate and the solvent evaporated in vacuo to give 12.2 g of yellow oil which was used in the next step. 1H-NMR(CDCl3)ppm(delta): 3.80 (s, 2H), 7.60 (s, 4H).

reactant | m-trifluoromethylbenzyl chloride | 61.5 mmole, 12.0 g | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
reactant | sodium cyanide | 195 mmole, 9.56 g | [C-]#N.[Na+]
reactant | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(3-trifluoromethylphenyl)acetonitrile | 12.2 g | FC(C=1C=C(C=CC1)CC#N)(F)F | C9H6F3N
